US07432288B2
3-Phenyl-1-(pyridin-3-ylmethyl)-4-{[4-(trifluoromethoxy)phenyl]amino}-1H-pyrrole-2,5-dione
4-(Trifluoromethoxy)aniline (0.94 mmol, 177 mg) dissolved in dry CH3CN (2 mL) was added to crude 3-chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione (0.47 mmol, 140 mg) and the reaction mixture was sequentially subjected to microwave heating single node 140° C. for 20 min, 140° C. for 120 min, and 140° C. for 120 min. 0.3 mL Water was added and the reaction mixture was purified using HPLC (57% 0.1M ammonium acetate buffer: 43% CH3CN→100% CH3CN, 20 mL/min) to give 92 mg (45%) of the title compound. 1H NMR (400 MHz, CD3CN) δ 8.63 (d, 1H), 8.52 (dd, 1H), 7.95 (bs, 1H), 7.80-7.74 (m, 1H), 7.37-7.32 (m, 1H), 7.19-7.08 (m, 3H), 7.01-6.95 (m, 2H), 6.94-6.88 (m, 2H), 6.84-7.78 (m, 2H), 4.77 (s, 2H).

reactant | 4-(Trifluoromethoxy)aniline | 0.94 mmol, 177 mg | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | 3-chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione | 0.47 mmol, 140 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O | C16H11ClN2O2
reactant | Water | 0.3 mL | O | H2O
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | 3-Phenyl-1-(pyridin-3-ylmethyl)-4-{[4-(trifluoromethoxy)phenyl]amino}-1H-pyrrole-2,5-dione | 92 mg, 45% | C1(=CC=CC=C1)C=1C(N(C(C1NC1=CC=C(C=C1)OC(F)(F)F)=O)CC=1C=NC=CC1)=O | C23H16F3N3O3
